US05235091
7-Phenyl-6-heptenoic acid (10 g) and 2,3,5-trimethylphenol (8.3 g) were suspended in dichloromethane (80 ml). To the suspension was added dropwise methanesulfonic acid (9.4 g) at a temperature ranging from 17°-25° C. The mixture was stirred at 25° C. for 6 hours, to which was then added water (80 ml). The dichloromethane layer was separated and washed with water three times. Dichloromethane was distilled off under reduced pressure, and the residue was recrystallized from toluene (38 m;) to give 7-(2-hydroxy-3,4,6-trimethylphenyl)-7-phenylheptanoic acid (14.2g, 85.2%) as white crystals.

reactant | 7-Phenyl-6-heptenoic acid | 10 g | C1(=CC=CC=C1)C=CCCCCC(=O)O | C13H16O2
reactant | 2,3,5-trimethylphenol | 8.3 g | CC1=C(C=C(C=C1C)C)O | C9H12O
reactant | methanesulfonic acid | 9.4 g | CS(=O)(=O)O | CH4O3S
reactant | water | 80 ml | O | H2O
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
product | 7-(2-hydroxy-3,4,6-trimethylphenyl)-7-phenylheptanoic acid | 14.2g, 85.2% | OC1=C(C(=CC(=C1C)C)C)C(CCCCCC(=O)O)C1=CC=CC=C1 | C22H28O3
